US07271406B2
By the general method for the synthesis of 2-(2,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole in Example 3, the reaction of 3,5-dibromobenzoyl chloride (20.13 g, 0.06747 mole) with 4-octoxybenzoyl hydrazide (17 g, 0.06747 mole) gave the intermediate 3,5-dibromo-N′-[4-(octyloxy)benzoyl]benzohydrazide (12.87 g, 36% yield). Cyclocondensation of the intermediate 3,5-dibromo-N′-[4-(oxtyloxy)benzoyl]-benzohydrazide (12.17 g) with POCl3 (63 mL) gave 2-(3,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole (6.12 g, 52% yield).

reactant | 2-(2,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole | BrC1=C(C=C(C=C1)Br)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C22H24Br2N2O2
reactant | 3,5-dibromobenzoyl chloride | 0.06747 mole, 20.13 g | BrC=1C=C(C(=O)Cl)C=C(C1)Br | C7H3Br2ClO
product | 3,5-dibromo-N′-[4-(octyloxy)benzoyl]benzohydrazide | 12.87 g, 36% yield | BrC=1C=C(C(=O)NNC(C2=CC=C(C=C2)OCCCCCCCC)=O)C=C(C1)Br | C22H26Br2N2O3
